US04758563
a. 1-[3-(1,1-Dimethylethoxy)-2-hydroxypropyl]pyrrolidine
A mixture of 100.0 g (1.35 m) of tert. butyl alcohol and 51.4 g (1.35 m) of epichlorohydrin in 240 ml of xylenes was stirred and heated to 50° C. Tin (IV) chloride (3.5 g; 1.6 ml; 0.031 m) was added all at once and the reaction mixture immediately exothermed to about 100° C. The reaction mixture was stirred at about 50° C. for 1.5 hrs then cooled to 5° C. while a mixture of 97 g of 50% sodium hydroxide solution and 195 g of ice was added followed by 115.1 g (1.62 m) of pyrrolidine. The reaction mixture was stirred and heated to reflux for 1 hr. The reaction mixture was cooled to RT, diluted with 1 liter of water and extracted with ether. The ether soluble portion was dried and concentrated in vacuo to give 92.4 g of oil which was distilled at 97.5°-97° C./ 0.075 mm to yield 63.85 g of the title compound.

reactant | tert. butyl alcohol | 100.0 g | C(C)(C)(C)O | C4H10O
reactant | epichlorohydrin | 51.4 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 97 g | [OH-].[Na+]
reactant | pyrrolidine | 115.1 g | N1CCCC1 | C4H9N
solvent | water | 1 liter | O | H2O
catalyst | Tin (IV) chloride | 1.6 ml, 3.5 g | [Sn](Cl)(Cl)(Cl)Cl
product | 1-[3-(1,1-Dimethylethoxy)-2-hydroxypropyl]pyrrolidine | 92.4 g | CC(C)(OCC(CN1CCCC1)O)C | C11H23NO2
